US04719203
p-Aminobenzoic acid is hydrogenated in the presence of a platinum catalyst to give a yield of 67% of theory of 4-aminocyclohexylcarboxylic acid; m.p. 256°-258° C. The reaction with phosphorus trichloride/phosphorous acid takes place in the manner described in Example 1 and gives the desired compound in a yield of 32% of theory; m.p. 235°-238° C. (decomp.); Mrel =0.27.

reactant | p-Aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
catalyst | platinum | [Pt] | Pt
product | 4-aminocyclohexylcarboxylic acid | yield of 67% | NC1CCC(CC1)C(=O)O | C7H13NO2
